US06492370B1
(2S)-3-(4-Biphenylyl)-N-butyl-2-[3-[(1RS)-1-(ethoxycarbonylmethyl)-2-(phenylthio)ethyl]-3-isoamylureido]propionamide (Compound No. 38-1)
n-Butylamine (0.35 ml) is added to a solution of phenyl (2S)-3-(4-biphenylyl)-2-[3-[(1RS)-1-(ethoxycarbonylmethyl)-2-(phenylthio)ethyl]-3-isoamylureido]propionate (Compound No. 1-80, 464 mg) in tetrahydrofuran (7 ml), and the mixture is stirred at room temperature for 1.5 hours. The reaction mixture is concentrated under reduced pressure, water is added to the concentrate, and the whole is extracted with ethyl acetate. The organic layer is washed with water and saturated brine successively, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting oily matter is purified by silica gel column chromatography to give 402 mg (90%) of the titled compound (Compound No. 38-1).

reactant | n-Butylamine | 0.35 ml | C(CCC)N | C4H11N
reactant | phenyl (2S)-3-(4-biphenylyl)-2-[3-[(1RS)-1-(ethoxycarbonylmethyl)-2-(phenylthio)ethyl]-3-isoamylureido]propionate | C1(=CC=C(C=C1)C[C@@H](C(=O)OC1=CC=CC=C1)NC(=O)N(CCC(C)C)C(CSC1=CC=CC=C1)CC(=O)OCC)C1=CC=CC=C1 | C39H44N2O5S
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | (2S)-3-(4-Biphenylyl)-N-butyl-2-[3-[(1RS)-1-(ethoxycarbonylmethyl)-2-(phenylthio)ethyl]-3-isoamylureido]propionamide | 402 mg, 90% | C1(=CC=C(C=C1)C[C@@H](C(=O)NCCCC)NC(=O)N(CCC(C)C)C(CSC1=CC=CC=C1)CC(=O)OCC)C1=CC=CC=C1 | C37H49N3O4S
